US06365753B1
Ethyl 2-Chloro-3-(2-chlor-5-phthalimidophenyl)acrylate
A mixture of 0.52 g of 3-(5-amino-2-chlorophenyl)-2-chloroacrylate, 0.36 g of phthalic anhydride, and 4 ml of acetic acid was heated under reflux for 2 hours under stirring. After cooling, water was added to the reaction mixture, and the precipitated solid was collected by filtration. The solid thus obtained was washed with water, dried, and purified by silica gel column chromatography (chloroform-hexane=3:1) to yield 0.71 g of the title compound (No. 18 of Table 2).

reactant | 3-(5-amino-2-chlorophenyl)-2-chloroacrylate | 0.52 g | NC=1C=CC(=C(C1)C=C(C(=O)[O-])Cl)Cl
reactant | phthalic anhydride | 0.36 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | Ethyl 2-Chloro-3-(2-chlor-5-phthalimidophenyl)acrylate | 0.71 g | ClC(C(=O)OCC)=CC1=C(C=CC(=C1)N1C(C=2C(C1=O)=CC=CC2)=O)Cl | C19H13Cl2NO4
